US04148809
A solution of 1-methoxy-4-(1-hydroxy-1-methylethyl)-1,4-cyclohexadiene in dichloromethane containing 5-(1,2-dimethyl-1-heptenyl)resorcinol was stirred at 0° C. while stannic chloride was added in one portion. The reaction mixture was then stirred for four hours at 24° C., and then washed with hydrochloric acid and water. The solution was dried and the solvent was removed by evaporation under reduced pressure to provide dl-cis-1-hydroxy-3-(1,2-dimethyl-1-heptenyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]pyran-9-one.

reactant | 1-methoxy-4-(1-hydroxy-1-methylethyl)-1,4-cyclohexadiene | COC1=CCC(=CC1)C(C)(C)O | C10H16O2
reactant | 5-(1,2-dimethyl-1-heptenyl)resorcinol | CC(=C(CCCCC)C)C=1C=C(C=C(O)C1)O | C15H22O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis-1-hydroxy-3-(1,2-dimethyl-1-heptenyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]pyran-9-one | OC1=CC(=CC=2OC([C@H]3[C@@H](C21)CC(CC3)=O)(C)C)C(=C(CCCCC)C)C | C24H34O3
